US04935424
To an ice cold suspension of 118.2 g of N-bromosuccinimide in 750 ml of water under a nitrogen atmosphere is added dropwise 75 ml of 2,3-dihydrofuran. The resulting solution is stirred at 0° C. for one hour. Thiourea, 50.5 g, is added and the solution refluxed under a nitrogen atmosphere overnight. The acidic solution is continuously extracted with ethyl acetate for 24 hours The ethyl acetate extract contains mostly succinimide. The aqueous phase is basified with concentrated ammonium hydroxide to a pH of 10-11 and continuously extracted with ethyl acetate for 72 hours. The ethyl acetate extract is cooled and acidified with ethereal hydrogen chloride. The hydrochloride salt oils out of solution and is crystallized from an ethanol-acetonitrile mixture to give 60.1 g of 2-amino-5-thiazoleethanol as the monohydrochloride salt; mp 125°-127° C. (lit. (a) mp 126°-127° C.) lit. (a) Farmaco. Ed. Sci., Vol. 41, pages 483-498 (1986).

reactant | N-bromosuccinimide | 118.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,3-dihydrofuran | 75 ml | O1CCC=C1 | C4H6O
reactant | Thiourea | NC(=S)N | CH4N2S
solvent | water | 750 ml | O | H2O
product | 2-amino-5-thiazoleethanol | 60.1 g | NC=1SC(=CN1)CCO | C5H8N2OS
